US07498356B2
Under a nitrogen atmosphere, a solution of 2-tert-butoxycarbonylamino-3-[3′-(7-trifluoromethyl-3,4-dihydro-2H-quinolin-1-ylmethyl)-biphenyl-4-ylmethylsulfanyl]-propionic acid methyl ester (0.173 g, 0.281 mmol) in 4 mL of THF and 1 mL of methanol was treated with 2 N NaOH (1.5 mL, 2.81 mmol). After stirring at room temperature for 3 hours, the solution was acidified with 2 N HCl to a pH 3. The resulting solution was extracted with ethyl acetate (2×50 mL), dried over MgSO4 and concentrated. The resulting residue was purified by flash chromatography (5% methanol in dichloromethane) to afford 2-tert-butoxycarbonylamino-3-[3′-(7-trifluoromethyl-3,4-dihydro-2H-quinolin-1-ylmethyl)-biphenyl-4-ylmethylsulfanyl]-propionic acid. 1H NMR (DMSO, 300 MHz) δ 7.58-7.49 (m, 4 H), 7.44-7.36 (m, 3 H), 7.21 (d, J=7.8 Hz, 1 H), 7.09 (d, J=7.5 Hz, 1 H), 6.76-6.70 (m, 2 H), 4.62 (s, 2 H), 4.14-4.07 (m, 1 H), 3.79 (s, 2 H), 3.47 (t, J=5.4 Hz, 2 H), 2.81-2.72 (m, 3 H), 1.99-1.91 (m, 1 H), 1.40 (s, 9 H); ESI-LCMS m/z calcd for C32H35F3N2O4S: 600.7; found 601.3 (M+1)+.

reactant | 2-tert-butoxycarbonylamino-3-[3′-(7-trifluoromethyl-3,4-dihydro-2H-quinolin-1-ylmethyl)-biphenyl-4-ylmethylsulfanyl]-propionic acid methyl ester | 0.281 mmol, 0.173 g | COC(C(CSCC1=CC=C(C=C1)C1=CC(=CC=C1)CN1CCCC2=CC=C(C=C12)C(F)(F)F)NC(=O)OC(C)(C)C)=O | C33H37F3N2O4S
reactant | NaOH | 2.81 mmol, 2 N, 1.5 mL | [OH-].[Na+]
reactant | HCl | 2 N | Cl | ClH
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | methanol | 1 mL | CO | CH4O
product | 2-tert-butoxycarbonylamino-3-[3′-(7-trifluoromethyl-3,4-dihydro-2H-quinolin-1-ylmethyl)-biphenyl-4-ylmethylsulfanyl]-propionic acid | C(C)(C)(C)OC(=O)NC(C(=O)O)CSCC1=CC=C(C=C1)C1=CC(=CC=C1)CN1CCCC2=CC=C(C=C12)C(F)(F)F | C32H35F3N2O4S
